US07968558B2
N-[2-(2,3-dihydro-benzofuran-5-yl)quinazolin-6-yl]acetamidine dihydrochloride hemihydrate
A suspension of 6-amino-2-(2,3-dihydro-5-benzofuryl)-quinazoline (1.4 g, 0.0053 mol) in MeCN (50 ml) was satured with HCl at 0° C. and stirred at r.t. for 24 hrs. The precipitated was filtered and triturated with acetone/methanol. The light yellow solid was filtered and dried in vacuum at 40° C. to give the titled compound, 1.3 g, 65% yield).

reactant | 6-amino-2-(2,3-dihydro-5-benzofuryl)-quinazoline | 0.0053 mol, 1.4 g | NC=1C=C2C=NC(=NC2=CC1)C=1C=CC2=C(CCO2)C1 | C16H13N3O
reactant | HCl | Cl | ClH
solvent | MeCN | 50 ml | CC#N | C2H3N
product | N-[2-(2,3-dihydro-benzofuran-5-yl)quinazolin-6-yl]acetamidine dihydrochloride hemihydrate | 65% yield | O.Cl.Cl.O1CCC2=C1C=CC(=C2)C2=NC1=CC=C(C=C1C=N2)NC(C)=N.O2CCC1=C2C=CC(=C1)C1=NC2=CC=C(C=C2C=N1)NC(C)=N.Cl.Cl | InChI=1S/2C18H16N4O.4ClH.H2O/c2*1-11(19)21-15-3-4-16-14(9-15)10-20-18(22-16)13-2-5-17-12(8-13)6-7-23-17;;;;;/h2*2-5,8-10H,6-7H2,1H3,(H2,19,21);4*1H;1H2
